US06509340B1
A solution of 4-methoxy-3-(4-methylpiperazin-1-yl)aniline dihydrochloride (2.65 g; 9 mmol), triethylamine (4.5 ml; 31.5 mmol) and N,N′-carbonyldiimidazole (1.6 g; 10 mmol) in 125 ml of acetonitrile is stirred at room temperature for 3 hours. A suspension of 2.0 g (9 mmol) of 5-fluoro-3-piperidin-4-yl-1H-indole and 1.3 ml (9 mmol) of triethylamine in 125 ml of acetonitrile is added to the mixture and it is stirred at room temperature for a further 12 hours. After customary working up, the residue is dissolved in acetone and the hydrochloride is precipitated using 1N HCl. By recrystallization from ethanol/diethyl ether, 4-(5-fluoro-1H-indole-3-yl)piperidine-1-carboxylic acid [4-methoxy-3-(4-methylpiperazin-1-yl)phenyl]amide hydrochloride is obtained

reactant | 4-methoxy-3-(4-methylpiperazin-1-yl)aniline dihydrochloride | 9 mmol, 2.65 g | Cl.Cl.COC1=C(C=C(N)C=C1)N1CCN(CC1)C
reactant | triethylamine | 31.5 mmol, 4.5 ml | C(C)N(CC)CC | C6H15N
reactant | 5-fluoro-3-piperidin-4-yl-1H-indole | 9 mmol, 2.0 g | FC=1C=C2C(=CNC2=CC1)C1CCNCC1 | C13H15FN2
reactant | triethylamine | 9 mmol, 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | acetone | CC(=O)C | C3H6O
solvent | acetonitrile | 125 ml | C(C)#N | C2H3N
solvent | acetonitrile | 125 ml | C(C)#N | C2H3N
product | 4-(5-fluoro-1H-indole-3-yl)piperidine-1-carboxylic acid [4-methoxy-3-(4-methylpiperazin-1-yl)phenyl]amide hydrochloride | Cl.COC1=C(C=C(C=C1)NC(=O)N1CCC(CC1)C1=CNC2=CC=C(C=C12)F)N1CCN(CC1)C | InChI=1S/C26H32FN5O2.ClH/c1-30-11-13-31(14-12-30)24-16-20(4-6-25(24)34-2)29-26(33)32-9-7-18(8-10-32)22-17-28-23-5-3-19(27)15-21(22)23;/h3-6,15-18,28H,7-14H2,1-2H3,(H,29,33);1H
